US07166598B2
A solution of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-[3-(diphenylmethyleneamino)-4-methylbenzyl]-4-[2-[(2S)-2-(methoxymethyl)morpholino]ethyl]piperazine (65 mg) in methanol was subjected to hydrogenolysis (3 atm hydrogen pressure) using 10% palladium on carbon (6 mg, 50% wet) at 50° C. for 16 hours. After cooling, the mixture was filtered and the filtrate was evaporated in vacuo. Ethyl acetate and water were added to the residue and the organic layer was separated, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel (NH-DM1020, Fuji Silysis Chemical Ltd.) with a mixture of hexane and ethyl acetate (1:1) as eluent to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3-amino-4-methylbenzyl)-4-[2-[(2S)-2-(methoxymethyl)morpholino]ethyl]-piperazine (18 mg). To a solution of the obtained compound in methanol was added 4N hydrogen chloride in ethyl acetate (0.05 ml) and the mixture was evaporated in vacuo to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3-amino-4-methylbenzyl)-4-[2-((2S)-2-(methoxymethyl)morpholino]ethyl]-piperazine trihydrochloride (20 mg).

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-[3-(diphenylmethyleneamino)-4-methylbenzyl]-4-[2-[(2S)-2-(methoxymethyl)morpholino]ethyl]piperazine | 65 mg | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CCN2C[C@H](OCC2)COC)CC2=CC(=C(C=C2)C)N=C(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C42H44F6N4O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | palladium on carbon | 6 mg | [Pd] | Pd
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3-amino-4-methylbenzyl)-4-[2-[(2S)-2-(methoxymethyl)morpholino]ethyl]-piperazine | 18 mg | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CCN2C[C@H](OCC2)COC)CC2=CC(=C(C=C2)C)N)C=C(C1)C(F)(F)F)(F)F | C29H36F6N4O3
